US08486952B2
To a solution of 2,4-dichloro-8-phenyl-7,8-dihydro-5H-pyrano[4,3-d]pyrimidine (Preparation I) (194 mg, 0.690 mmol) in MeOH (6901 μL) was added methanamine hydrochloride (69.9 mg, 1.035 mmol) and N,N-Diisopropylethylamine (301 μL, 1.725 mmol). The resulting mixture was stirred at RT for 2 h. The reaction mixture was then concentrated in vacuo. Purification by flash chromatography (Silica, EtOAc/Hexanes) gave 2-chloro-N-methyl-8-phenyl-7,8-dihydro-5H-pyrano[4,3-d]pyrimidin-4-amine (126 mg, 0.457 mmol, 66.2% yield). LC-MS (M+H)+=276.0. 1H NMR (500 MHz, CDCl3) δ ppm 7.28 (2H, t, J=7.32 Hz), 7.20-7.25 (1H, m), 7.14-7.20 (2H, m), 4.47-4.62 (2H, m), 4.47 (1H, s), 4.00-4.11 (2H, m), 3.95 (1H, d, J=3.36 Hz), 3.08 (3H, d, J=4.88 Hz).

reactant | 2,4-dichloro-8-phenyl-7,8-dihydro-5H-pyrano[4,3-d]pyrimidine | 0.690 mmol, 194 mg | ClC=1N=C(C2=C(N1)C(COC2)C2=CC=CC=C2)Cl | C13H10Cl2N2O
reactant | methanamine hydrochloride | 1.035 mmol, 69.9 mg | Cl.CN
reactant | N,N-Diisopropylethylamine | 1.725 mmol, 301 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | MeOH | 6901 μL | CO | CH4O
product | 2-chloro-N-methyl-8-phenyl-7,8-dihydro-5H-pyrano[4,3-d]pyrimidin-4-amine | 0.457 mmol, 126 mg, 66.2% yield | ClC=1N=C(C2=C(N1)C(COC2)C2=CC=CC=C2)NC | C14H14ClN3O
